US09447091B2
b) 3-Nitro-5-pyrrol-1-yl-phenylamine
To a solution of 1-(3,5-dinitro-phenyl)-1H-pyrrole (8.2 g, 35.19 mmol) and pyridine (10 ml) in ethanol (100 ml), at 80° C., was added a 20% aqueous solution of ammonium sulfide (38.4 ml, 140.76 mmol, 4.0 eq.) in water (10 ml). The mixture was stirred at the same temperature for 4 h. The mixture was quenched with ice water (200 ml) and the precipitated solid was filtered. The filtered solid was dried under vacuum to afford the product in 98% yield (7.0 g).

reactant | 1-(3,5-dinitro-phenyl)-1H-pyrrole | 35.19 mmol, 8.2 g | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])N1C=CC=C1 | C10H7N3O4
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | ammonium sulfide | 140.76 mmol, 38.4 ml, 4.0 eq. | [NH4+]=S
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 3-Nitro-5-pyrrol-1-yl-phenylamine | 98% yield | [N+](=O)([O-])C=1C=C(C=C(C1)N1C=CC=C1)N | C10H9N3O2
